Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Cipro / Sulfa (Sulfonamide Antibiotics) / oxycodone
 
Attending: ___
 
Chief Complaint:
Left facial droop; Word finding difficulty
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ RH F w PMHx of breast cancer s/p
lumpectomy and radiation/chemotherapy who presents to ___ ED
from ___ after she was noted to have acute onset L 
facial
droop and word finding difficulties earlier this afternoon.
Per family's report, however, Ms. ___ has been off her
baseline since returning home from the emergency department on
___. Her daughter states that Ms. ___ had a fall at home
on ___. The fall occurred when Ms. ___ forgot to use 
her
walker, tried to go up a step and fell backwards. There was no
reported head strike she was brought to the hospital on ___
(when her daughter returned from out of town) where x-rays 
showed
a lumbar compression fracture as well as UTI. She was treated
with a dose of CTX and sent home with oral abx.
The ___ after returning home (the day prior to 
presentation),
her daughter reports that Ms. ___ was "distant" and wasn't
answering the family's questions appropriately. She appeared 
more
confused than at baseline and had a "different look to her." 
That
evening, she tried to give Ms. ___ her antibiotics, but Ms.
___ needed a significant amount of help taking the pills,
which is not baseline for her.
When she awoke the next morning (the morning of presentation),
Ms. ___ was "even worse than before". She was not answering
questions and appeared to not know how to use her fork at
breakfast. She also had several episodes of emesis. EMS was
called and she was taken to ___.
At ___, her daughter reports that Ms. ___ actually
appeared better for a time - "she started talking and answering
us again." At some point in the afternoon, however, Ms. ___
was noted to have left sided facial droop that subsequently
resolved. A NCHCT was unrevealing, and she was transferred to
___ for further evaluation and treatment.
In ___ ED, Ms. ___ is quite confused and tells this writer
that she is in the hospital for vomiting. She does not recall
that her face was drooping or that her left side was weak. She
denies any pain or discomfort at this time.

Of note, she is currently on Tamoxifen and Herceptin for breast
cancer, due to finish in ___. There has been no evidence of
malignancy since lumpectomy, radiation, and chemo. Ms. ___ 
was
also taken off all anti-hypertensives several months ago, 
because
"she didn't need them any more" per her daughter. Prior to ___,
she was taking lisinopril and Toprol XL.
 
Past Medical History:
- orthoscopic repair of B/L knees
- breast cancer
  - s/p L breast lumpectomy in ___
  - s/p radiation and tamoxifen ___ years
  - s/p R breast lumpectomy ___
    - presently treated with Herceptin q3weeks and tamoxifen
    - no evidence of malignancy
- s/p R and L hip replacements in the last ___ years
- ?HTN
  - was previously on Toprol and Lisinopril
  - discontinued on ___

 
Social History:
Lives with her adult daughter. Requires assistance with dressing
and toileting, eats independently. Walks with a walker, but
frequently forgets to use it and has suffered several falls.
Former tobacco use, quit many years ago. Social EtOH. Denies
illicits.

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[x] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
No family history of CVA or MI. Has two children with DVTs.
 
Physical Exam:
==============
ADMISSION EXAM
==============
GEN - elderly F, pleasant and cooperative
HEENT - NC/AT, MMM
NECK - no meningismus
CV - RRR
RESP normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

Neurologic Examination:
MS - awake and attends to examiner, but has significant
inattention. She is unable to answer many questions and will
switch subjects to something that she can answer. She gives the
month as ___ and is unable to even venture a guess about 
the
date, becoming somewhat frustrated. She is oriented to 
"hospital"
but does not know that she is in ___. She cannot perform MOYB
or DOWB at all. She counts 6 people in the stroke card scene, 
and
when asked to describe it, states "she is getting everything all
messed up and kids are falling around." She is unable to repeat
longer phrases and has a mild anomia for lower frequency 
objects.
She can comprehend simple commands. No evidence of neglect.
Strong grasp bilaterally. She laughs easily and inappropriately,
pseudobulbar.

CN - PERRL 3->2 brisk. VF full to number counting. EOMI, no
nystagmus. Reports decrement to LT over L hemiface, 50% of
normal. Slight L NLFF flattening with decreased activation.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

MOTOR - Paratonia throughout. There is some cupping and drift
with the LLE. Mild UMN pattern of weakness in the LUE (4+/5),
more pronounced in the leg (___).

REFLEXES -
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      0       0
 R  2+    2+     2+      0       0  
Plantar response up going bilaterally 

SENSORY - Reports decrement to LT over LUE and LLE, ~50% of
normal.

COORD - B/L intention tremor. No clear dysmetria w FNF.

GAIT - Deferred.

==============
DISCHARGE EXAM
==============
Unchanged except mental status as below. 

MS - Awake and oriented to self, date, and place. Attention 
improved from prior. Answers all questions and engages in 
complex/witty joke-making with her daughter and medical staff 
that are present. Not inappropriate or pseudobulbar. Accurately 
describes the people in the stroke card scene and what they are 
doing. Able to name both high and low frequency objects. Follows 
simple and complex commands, and sat patiently and cooperatively 
(even humorously) through a lumbar puncture taking ~30 minutes. 
 
Pertinent Results:
====
LABS
====
___ 09:13AM BLOOD WBC-6.5 RBC-3.99 Hgb-12.3 Hct-35.5 MCV-89 
MCH-30.8 MCHC-34.6 RDW-12.4 RDWSD-40.9 Plt ___
___ 06:25AM BLOOD WBC-4.9 RBC-3.62* Hgb-10.7* Hct-32.6* 
MCV-90 MCH-29.6 MCHC-32.8 RDW-12.4 RDWSD-40.7 Plt ___
___ 06:45PM BLOOD Neuts-77.5* Lymphs-14.4* Monos-6.5 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-5.20 AbsLymp-0.97* 
AbsMono-0.44 AbsEos-0.05 AbsBaso-0.02
___ 09:13AM BLOOD Neuts-77.1* Lymphs-15.0* Monos-5.6 
Eos-1.1 Baso-0.6 Im ___ AbsNeut-4.97 AbsLymp-0.97* 
AbsMono-0.36 AbsEos-0.07 AbsBaso-0.04
___ 06:25AM BLOOD Neuts-66.4 ___ Monos-7.8 Eos-3.7 
Baso-0.6 Im ___ AbsNeut-3.23 AbsLymp-1.03* AbsMono-0.38 
AbsEos-0.18 AbsBaso-0.03
___ 06:45PM BLOOD ___ PTT-25.6 ___
___ 09:13AM BLOOD ___ PTT-25.6 ___
___ 06:45PM BLOOD Glucose-111* UreaN-13 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-21* AnGap-22*
___ 09:13AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-141 
K-3.6 Cl-101 HCO3-20* AnGap-24*
___ 06:25AM BLOOD Glucose-106* UreaN-15 Creat-0.7 Na-138 
K-4.0 Cl-101 HCO3-23 AnGap-18
___ 06:45PM BLOOD ALT-8 AST-21 AlkPhos-55 TotBili-0.4
___ 09:13AM BLOOD ALT-7 AST-15 LD(LDH)-209 AlkPhos-61 
TotBili-0.5
___ 06:25AM BLOOD ALT-8 AST-18 LD(LDH)-246 AlkPhos-56 
TotBili-0.6
___ 06:45PM BLOOD Albumin-4.0 Cholest-173
___ 09:13AM BLOOD Albumin-4.1 Calcium-9.4 Phos-4.1 Mg-2.0 
Cholest-189
___ 06:25AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.1 Mg-1.8
___ 06:45PM BLOOD Triglyc-88 HDL-67 CHOL/HD-2.6 LDLcalc-88
___ 09:13AM BLOOD Triglyc-95 HDL-72 CHOL/HD-2.6 LDLcalc-98
___ 09:48PM BLOOD %HbA1c-5.1 eAG-100

=======
IMAGING
=======
- ___ CTA Head & Neck
1. Slightly asymmetric left periventricular white matter 
hypodensity. If there is concern for acute infarction, MRI is 
recommended to further evaluate. 
2. Moderate left internal carotid artery origin noncalcified 
plaque versus nonocclusive intraluminal thrombus with peripheral 
rim of calcification (2:126), a potential risk for embolization. 

3. Mild luminal irregularity and narrowing of the cavernous and 
clinoid bilateral ICA. 
4. Otherwise, no evidence of stenosis, occlusion, or aneurysm 
formation. 
5. Heterogeneous thyroid gland with multiple hypodense foci and 
dense 
calcifications. Further evaluation with ultrasound or CT chest 
is 
recommended. 
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of breast 
cancer with recent recurrence who presented with episodes of 
altered mental status described as staring with fidgeting 
movements in her hands for a ___ minutes. The family has been 
unable to get her attention during these episodes. They began 
around 3 weeks ago. They have been occurring near daily, 
typically later in the evening. She's had progressive cognitive 
decline for ___ years, for which she is being worked up for 
dementia by her outpatient neurologist. She has frequent UTIs, 
but had a UA at the OSH ED prior to transfer which was negative 
(confirmed with the ___ lab). In the ED, she had a 
negative CXR and NCHCT. She developed transient left sided face, 
arm, and leg weakness and was transferred to ___. She was 
admitted to the stroke service given the left sided weakness. 
The weakness had resolved by the next morning. MRI was negative 
for stroke, brain metastasis, or other lesion. The episodes of 
staring are felt most likely to be complex partial seizures; the 
transient left sided weakness may have been ___ paralysis 
related to seizure as well. She was monitored for >24 hours on 
EEG. No typical events were captured, though she did have 
occasional sharp waves. She also has focal right sided slowing. 
She was started on Keppra. Lumbar puncture was attempted to 
evaluate her new onset seizures, particularly given her cancer 
history, but this was unsuccessful at bedside. We recommended ___ 
guidance, but the patient and family were unwilling to stay 
through the weekend to do this. This can be re-considered as an 
outpatient. The seizures may be related to her suspected 
underlying neurodegenerative process. She was also recommended 
for rehab by ___ and OT, which was also refused by the patient 
and family and she was instead discharged home with 24 hour 
supervision by the family and home services ___ and ___. 

TRANSITIONAL ISSUES:
- Consider outpatient lumbar puncture 
- She should follow up with her outpatient neurologist
- She was discharged with home with services, may start with 
physical therapy and nursing evaluation to follow. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Gabapentin 600 mg PO QHS 
4. Timolol Maleate 0.5% 1 DROP RIGHT EYE DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Aspirin 81 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. Trastuzumab Dose is Unknown  IV EVERY 3 WEEKS 
10. Tamoxifen Citrate 10 mg PO QD 
11. Nystatin-Triamcinolone Cream 1 Appl TP TID:PRN as directed 
12. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  LevETIRAcetam 750 mg PO Q12H 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Donepezil 5 mg PO QHS  
6.  Escitalopram Oxalate 10 mg PO DAILY  
7.  Gabapentin 600 mg PO QHS  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Nystatin-Triamcinolone Cream 1 Appl TP TID:PRN as directed  
10.  Tamoxifen Citrate 10 mg PO QD  
11.  Timolol Maleate 0.5% 1 DROP RIGHT EYE DAILY  
12.  Trastuzumab   mg/kg IV EVERY 3 WEEKS  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Epilepsy
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for evaluation of staring 
episodes that have been happening for about 3 weeks. While in 
the emergency room, you also had transient left sided weakness 
that resolved by the next morning. You had a brain MRI, which 
did not show any stroke. These staring episodes and the 
transient left sided weakness are likely due to seizures. We 
monitored you on EEG, which did not capture any events or show 
any seizures, but it did show abnormal discharges that indicate 
you are at increased risk for seizures. We started a medication 
called Keppra to treat your seizures. We attempted a lumbar 
puncture at bedside to look for an underlying infection or 
inflammation as the cause of your seizures, but we were 
unsuccessful at bediside. As we discussed, this can be attempted 
again with Xray guidance, but you opted against staying until a 
weekday to get this done during your hospitalization. Please 
discuss this procedure with your outpatient neurologist who can 
decide if this should be attempted again as an outpatient. 

You were seen by physical and occupational therapy while 
inpatient who recommended you go to rehab before going home, but 
you declined this recommendation. Instead you are being 
discharged with 24 hour supervision with your family and home 
services. We wish you the best.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___